US07423158B2
A cold (0° C.) solution of 3-{[4-(difluoromethoxy)phenyl]ethynyl}aniline (1 g, 3.86 mmol), triethylamine (0.65 mL, 4.63 mmol) in CH2Cl2 was treated dropwise with methoxyacetyl chloride (0.5 g, 4.63 mmol), allowed to come to room temperature, stirred for 2 hours, poured into water and extracted with EtOAc/ethyl ether 1/1. The organic extracts were combined, dried over MgSO4 and concentrated in vacuo. Purification of the resultant residue on silica gel (Biotage) using hexanes/EtOAc (1/1) as the eluting solvent gave N-(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)-2-methoxyacetamide as a yellow solid (1.25 g, 94% yield), MS m/e (M+H)+ 332; 1H NMR (400 MHz, DMSO-d6) 3.30 (s, 3H), 3.97 (s, 2H), 7.2 (m, 3H), 7.3 (m, 2H), 7.6 (m, 3H), 7.9(t, J=1.7 Hz, 1H), 9.84 (s, 1H).

reactant | 3-{[4-(difluoromethoxy)phenyl]ethynyl}aniline | 3.86 mmol, 1 g | FC(OC1=CC=C(C=C1)C#CC=1C=C(N)C=CC1)F | C15H11F2NO
reactant | triethylamine | 4.63 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 4.63 mmol, 0.5 g | COCC(=O)Cl | C3H5ClO2
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)-2-methoxyacetamide | 1.25 g, 94% yield | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)NC(COC)=O)F | C18H15F2NO3
